US06703182B1
3.44 g (0.02 mol) of 2-hydroxyimino-4-phenyl-but-3-enenitrile, (mp 127-129° C., prepared from cinnamaldoxime according to C. Trione et al, J. Org. Chem. 1993, 58, 2075) are dissolved in 20 ml of anhydrous tetrahydrofuran and cooled to 0° C. Methanesulfonyl chloride (1.7 ml, 0.022 mol) is added at once, followed by triethylamine (4.2 ml, 0.03 mol) dropwise over 15 min, keeping the temperature of the mixture at 5° C. The mixture is then stirred at 25° C. for two hours, and poured into 150 ml of iced water. The off-white precipitate is washed with ether, dried and recrystallyzed from 70 ml of ethanol, yielding 2.74 g (55%) of 2-methylsulfonyloxyimino-4-phenyl-but-3-enenitrile as colorless crystals, mp. 144-148° C. No attempt is made to recover more material from the ether extract.

reactant | 2-hydroxyimino-4-phenyl-but-3-enenitrile | 0.02 mol, 3.44 g | ON=C(C#N)C=CC1=CC=CC=C1 | C10H8N2O
reactant | cinnamaldoxime | C(C=CC1=CC=CC=C1)=NO | C9H9NO
reactant | Methanesulfonyl chloride | 0.022 mol, 1.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.03 mol, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 2-methylsulfonyloxyimino-4-phenyl-but-3-enenitrile | 2.74 g, 55% | CS(=O)(=O)ON=C(C#N)C=CC1=CC=CC=C1 | C11H10N2O3S
